US07534797B2
3-Cyclobutyl-1-(2-thiophen-2-yl-quinolin-7-yl)-imidazo[1,5-a]pyrazin-8-ylamine
To a cooled (ice/water) solution of 3-cyclobutyl-1-quinolin-7-ylimidazo[1,5-a]pyrazin-8-ylamine (52.7 mg, 0.167 mmol) in THF (5 mL) was added 2-thienyllithium (1 M in THF; 0.6 mL, 0.6 mmol), then the cooling bath was removed, and the solution was stirred overnight at ambient temperature. After 1 d and 2 d, more 2-thienyllithium (0.2 mL, 0.2 mmol) was added, and stirring was continued. The reaction was quenched by adding water and sat. NH4Cl solution, the mixture was extracted with CH2Cl2 (3×20 mL), and the combined organic extracts were washed with brine and dried over MgSO4. Air was bubbled into the solution for 8 h. The crude material was adsorbed onto Hydromatrix and chromatographed on silica gel [Jones Flashmaster, 5 g/25 mL cartridge, eluting with CH2Cl2 (1-6)→1% MeOH in CH2Cl2 (7-21)→2% MeOH in CH2Cl2 (22-43)], yielding a yellow film. Further purification by preparative TLC (20×20 cm silica gel plates, 500 μM thickness, eluting with 3% MeOH in CH2Cl2 four times) yielded the title compound as a yellow solid;

reactant | 3-cyclobutyl-1-quinolin-7-ylimidazo[1,5-a]pyrazin-8-ylamine | 0.167 mmol, 52.7 mg | C1(CCC1)C1=NC(=C2N1C=CN=C2N)C2=CC=C1C=CC=NC1=C2 | C19H17N5
reactant | 2-thienyllithium | 0.6 mmol, 1 M, 0.6 mL | S1C(=CC=C1)[Li]
reactant | 2-thienyllithium | 0.2 mmol, 0.2 mL | S1C(=CC=C1)[Li]
solvent | THF | 5 mL | C1CCOC1 | C4H8O
product | 3-Cyclobutyl-1-(2-thiophen-2-yl-quinolin-7-yl)-imidazo[1,5-a]pyrazin-8-ylamine | C1(CCC1)C1=NC(=C2N1C=CN=C2N)C2=CC=C1C=CC(=NC1=C2)C=2SC=CC2 | C23H19N5S
